### ISSUE TITLE
PLLND term calculus difficult to use

### ISSUE THREAD

**Issue by fairflow** [AviCraimer/lax-logic-in-lean#2]
The original definition of erasePLLProof was by induction over proofs.  This failed with the message that the code generator does not yet support a recursor 'LaxNDτ.rec'.  No easy fix to that.  The next attempt constructs a function directly without using much of the tactic language.  This requires numerous type cast functions, which make it hard (currently I do not know how to do it at all) to actually use erasePLLProof, for example by proving conservativity:
```
theorem PLLconservative : {Γ : List PLLFormula} → {φ : PLLFormula} → 
    (prf : LaxNDτ Γ φ) →
     isIPLProof (erasePLLProof prf)

```
it is clear from the construction of `erasePLLProof` that the resulting proof does not involve any of the rules for somehow, and all the formulae in the proof have had their somehow's erased.  So indeed, the erased proof will be an IPLProof.  But this still needs to be proved.

**Comment by fairflow** [comment]
Here's the inductive type of PLL proofs:

```
inductive LaxNDτ: (List PLLFormula)→ PLLFormula → Type -- ND for PLL, proof term version
  | idenτ : (Γ Δ : List PLLFormula) → (φ : PLLFormula) → LaxNDτ (Γ ++ φ :: Δ) φ
  | falsoElimτ  : {Γ : List PLLFormula} → (φ : PLLFormula) → LaxNDτ Γ falsePLL → LaxNDτ Γ φ
  | impIntroτ  : {Γ Δ : List PLLFormula} → {φ ψ : PLLFormula} →
      LaxNDτ (Γ ++ φ :: Δ) ψ → LaxNDτ (Γ ++ Δ) (ifThen φ ψ)
  | impElimτ   : {Γ : List PLLFormula} → {φ ψ : PLLFormula} → LaxNDτ Γ (ifThen φ ψ) → 
    LaxNDτ Γ φ → LaxNDτ Γ ψ
  | andIntroτ  : {Γ : List PLLFormula} → {φ ψ : PLLFormula} → LaxNDτ Γ φ → LaxNDτ Γ ψ → 
    LaxNDτ Γ (and φ ψ)
  | andElim1τ  : {Γ : List PLLFormula} → {φ ψ : PLLFormula} → LaxNDτ Γ (and φ ψ) → LaxNDτ Γ φ
  | andElim2τ  : {Γ : List PLLFormula} → {φ ψ : PLLFormula} → LaxNDτ Γ (and φ ψ) → LaxNDτ Γ ψ
  | orIntro1τ  : {Γ : List PLLFormula} → {φ ψ : PLLFormula} → LaxNDτ Γ φ → LaxNDτ Γ (or φ ψ)
  | orIntro2τ  : {Γ : List PLLFormula} → {φ ψ : PLLFormula} → LaxNDτ Γ ψ → LaxNDτ Γ (or φ ψ)
  | orElimτ    : {Γ Δ : List PLLFormula} → {φ ψ χ : PLLFormula} →
      LaxNDτ (Γ ++ φ :: Δ) χ →
      LaxNDτ (Γ ++ ψ :: Δ) χ → LaxNDτ (Γ ++ Δ) χ
  | laxIntroτ  : {Γ : List PLLFormula} → {φ : PLLFormula} → LaxNDτ Γ φ → LaxNDτ Γ (somehow φ)
  | laxElimτ  : {Γ Δ : List PLLFormula} → {φ ψ : PLLFormula} →
      LaxNDτ (Γ ++ Δ) (somehow φ) → LaxNDτ (Γ ++ φ :: Δ) (somehow ψ) → 
      LaxNDτ (Γ ++ Δ) (somehow ψ)
```

**Comment by fairflow** [comment]
and here's the type of `erasePLLProof`
```
def erasePLLProof {Γ : List PLLFormula} {φ : PLLFormula} (h : LaxNDτ Γ φ) :
  LaxNDτ (List.map eraseSomehow Γ) (eraseSomehow φ)
```
where the `eraseSomehow` function simply removes all instances of O (somehow) from a formula.

**Comment by fairflow** [comment]
So we made some apparent progress by proving the following variant:

```
theorem erasePLLProof2 {Γ : List PLLFormula} {φ : PLLFormula}
  (h : LaxNDτ Γ φ) : Nonempty (LaxNDτ (List.map eraseSomehow Γ) (eraseSomehow φ)) := by
  induction h with
  | idenτ G D f =>
    simp [map_append_distrib] -- Use simp to handle the type mismatch
    exact ⟨ idenτ (List.map eraseSomehow G) (List.map eraseSomehow D) (eraseSomehow f) ⟩
  | @impIntroτ Γ Δ ψ χ prf ih => -- why is this syntax not supported for induction tactic?
    simp [map_append_distrib] at ih; simp
    exact ⟨ impIntroτ ih.some ⟩
  | @falsoElimτ Γ φ prf ih =>
    let ih' := falsoElimτ (eraseSomehow φ) ih.some
    exact ⟨ ih' ⟩
  | @impElimτ Γ φ ψ prf1 prf2 ih1 ih2 =>
    constructor
    apply impElimτ; exact ih1.some; exact ih2.some
  | @andIntroτ Γ φ ψ prf1 prf2 ih1 ih2 =>
    constructor;
    apply andIntroτ; exact ih1.some; exact ih2.some
  | @andElim1τ Γ φ ψ prf ih =>
    constructor
    apply andElim1τ; exact ih.some
  | @andElim2τ Γ φ ψ prf ih =>
    constructor
    apply andElim2τ; exact ih.some
  | @orIntro1τ Γ φ ψ prf ih =>
    constructor
    apply orIntro1τ; exact ih.some
  | @orIntro2τ Γ φ ψ prf ih =>
    constructor
    apply orIntro2τ; exact ih.some
  | @orElimτ Γ Δ φ ψ χ prf1 prf2 ih1 ih2 =>
    simp; constructor -- we need the simp to handle the type mismatch
    apply orElimτ
    simp[map_append_distrib] at ih1
    exact ih1.some
    simp[map_append_distrib] at ih2
    -- constructor -- a simpler approach but harder to read
    exact ih2.some
  | @laxIntroτ Γ φ prf ih =>
    simp; exact ih  -- the somehow has somehow gone :-)
  | @laxElimτ Γ Δ φ ψ prf1 prf2 ih1 ih2 =>
    simp[map_append_distrib] at ih1
    simp[map_append_distrib] at ih2
    simp; constructor
    apply impInContext
    exact ih1.some; exact ih2.some
```
_but_ this is not particularly useful for the following reasons:
if we try for conservativity by attempting
```
theorem PLLconservativeDodgy
  {Γ : List PLLFormula} {φ : PLLFormula} 
  (prf : LaxNDτ Γ φ) : 
  isIPLProof (erasePLLProof2 prf).some := sorry -- thought to be unprovable
```
we get something unprovable (and, I think, provably unprovable!) since, by proof irrelevance, all proofs of inhabitation of a type are equal at the term level and so have no specific properties.  Unless all such proofs were IPL proofs, which obviously is not the case, we cannot prove that any of them are.

**Comment by fairflow** [comment]
Initially I thought that we could instead proceed by proving 
```
theorem PLLconservative_sigma 
  {Γ : List PLLFormula} {φ : PLLFormula}
  (h : LaxNDτ Γ φ) :
  Nonempty (Σ t : LaxNDτ (List.map eraseSomehow Γ) (eraseSomehow φ), PLift (isIPLProof t)) 
```
or a version using ∃ and without `Nonempty`; however some hours of attempted proofs and investigation leads me to think that this whole approach will not work, as it seems to be exactly as hard to (use  Nonempty with ∃  or even Σ to provide a witness to the erasure construction and to prove that it has some special properties) as it is to (prove separately that there is a witness and that the witness has some special properties).  Unless they all have a property P, by virtue of their type, there is nothing we can do to show any one individual has the property P, ie we cannot distinguish one witness from another as soon as we land in Prop.  And this has led me full circle around to the necessity for casts.  Since many of the casting problems arose from my dividing the context into two parts for every rule which involves a modified context, the next best thing would be to remove that flexibility and always add to the beginning of the context when invoking such a rule (except for the idenτ rule which surely must have that flexibility if we work with lists rather than sets for contexts; and the pain will inevitably arise in this case).  We'd need to check that the resulting calculus is complete; I think it is.  

A beneficial side effect would be that this approach makes the synthesis of implicit terms easier (you will see a lot of @ notation in the proofs precisely because of the non-deterministic nature of the proof rules).

Apparently this is a known pain point for developing proof theory in Lean 4.

**Comment by fairflow** [comment]
Unsure how to proceed: addressing the issue as I propose above means changing much of PLLNDProof.  So the discussion above would no longer match the current code.

**Comment by AviCraimer** [comment]
Sorry to hear that the proofs aren't working out. Have you pushed the latest changes to your branch so I can take a look? 

"Apparently this is a known pain point for developing proof theory in Lean 4."

Did you learn this from a discussion online somewhere? I'd be interested to take a look at anything you found on the topic.

**Comment by fairflow** [comment]
hmm I confess this was something that Claude repeated so often I started to believe it.  Perhaps it's a rather specialised pain point.

But general recursors are really useful; three things I've found that seem relevant are 

1. [auto-generating decidable instances](https://github.com/leanprover/lean4/issues/2329);  
2. [https://github.com/leanprover/lean4/issues/2049](url) and 
3. [https://arxiv.org/pdf/2403.14064](url) which touches on the introduction of inconsistencies in Lean in an attempt to implement nested inductive types (which is what we have in NDLLProof.lean) which may explain why they remain unimplemented.  

I had personal experience of this kind of thing way back in the day, when the Lego proof assistant was extended with general inductive types (up to that point we had to use the kind of encodings you have been studying which are fun but a real pain to do actual work with :-) in that I found a way to use the freshly-implemented recursors for Lists, which didn't handle type universes properly, to prove False.  I have no memory of how I did this btw!  

The other references my pet llm found are probably for Lean 3 which is why they are hard to find (especially as they were hallucinated).  But [this paper](https://arxiv.org/pdf/2012.08990) is still nicely written and a good introduction to induction issues in Lean (3).

**Comment by AviCraimer** [comment]
@fairflow  I just merged your branch to main and also updated your branch from main. Make sure to `git pull`. 

I am taking a look at the issue with the proof. I'm wondering if it might be easier to do the proof using axiomatic style rather than natural deduction style as we don't have the issue of nested recursion with the context lists. We'll see.

**Comment by AviCraimer** [comment]
@fairflow  I started on it and go as far as addding an .eraseSomehow function to PLLFormula.

https://github.com/AviCraimer/lax-logic-in-lean/blob/main/LaxLogic/PLLFormula.lean#L119

It packages the erased formula with a proof that the formula is somehow free. 

Next I'll try to extend this approach to proofs (but not today).

I merged these changes into main and into your branch.

**Comment by fairflow** [comment]
Great stuff Avi, thanks for all that.  Oh yes, I think your style is easier to manage, though concrete proofs for valid formulae are tricky in combinator style.  I'll be interested in how you prove conservativity.  Then if we prove that the two systems are equivalent, we can use your proof with an ND calculus and have our cake and eat it.  Later, proving soundness wrt the semantics you have defined should not be too hard for any of our calculi; but the completeness proof is another issue.  Interestingly I today made progress with proving conservativity in that all but one of the constructors have proofs, and that's the exchange rule which has two casts in it that I think are manageable (but we'll see!).  See l754, `PLLconservative2` in [https://github.com/AviCraimer/lax-logic-in-lean/blob/matthew-develop/LaxLogic/PLLNDexperiment.lean](url)
